US04731367
3-[2-(1-dimethylaminopropyn-3-yl)-6-methyl-8α-ergolinyl]-1,1-diethylurea;
1,1-diethyl-3-[2-(3-hydroxy-3-methyl-1-butynyl)-6-methyl-8α-ergolinyl]urea, mp starting with 132°-140° C., [α]D =+67.8° (c=0.2% in pyridine);

reactant | 1,1-diethyl-3-[2-(3-hydroxy-3-methyl-1-butynyl)-6-methyl-8α-ergolinyl]urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C#CC(C)(C)O)C)CC | C25H34N4O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-[2-(1-dimethylaminopropyn-3-yl)-6-methyl-8α-ergolinyl]-1,1-diethylurea | CN(C#CCC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C)C | C25H35N5O
